US04665070
A. Preparation of Ethyl 2-carbethoxyamino-6-ethyl-4-nitro-benzoate and Related Compounds of Formula VIII
A solution of ethyl-2-amino-6-ethyl-4-nitro-benzoate (400 mg) in ethyl acetate (10 ml) was added dropwise to a solution of trichloromethyl chloroformate in ethylacetate (10 ml). A precipitate was formed immediately which dissolved on prolonged sitrring for 21/2 hours. A solution of ethanol (5 ml) and triethylamine (5 ml) was added. A yellowish precipitate was formed. After 1 hour the solution was partitioned between ethylacetate and water. The ethylacetate layer was washed with brine solution, dried over magnesium sulfate and evaporated to a reddish oil. The material was further purified by column chromatography on silica gel (10% EtOAc:pet.ether) to give a solid material,

reactant | ethyl-2-amino-6-ethyl-4-nitro-benzoate | 400 mg | C(C)OC(C1=C(C=C(C=C1CC)[N+](=O)[O-])N)=O | C11H14N2O4
reactant | trichloromethyl chloroformate | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | ethanol | 5 ml | C(C)O | C2H6O
reactant | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethylacetate | 10 ml | C(C)OC(C)=O | C4H8O2
product | Ethyl 2-carbethoxyamino-6-ethyl-4-nitro-benzoate | C(=O)(OCC)NC1=C(C(=O)OCC)C(=CC(=C1)[N+](=O)[O-])CC | C14H18N2O6
